US04631286
9-Amino-1-methyl-1,2,3,4-tetrahydroacridin-1-ol
In 100 ml of dry tetrahydrofuran was suspended 5.00 g of 9-amino-3,4-dihydroacridin-1(2H)-one at ice temperature and 78 ml (4 eq) of 1.2M CH3Li solution in ether was added thereto at such a rate as to avoid bubbling. The reaction mixture was stirred overnight as it warmed to ambient temperature. The next day 20 ml more of the CH3Li solution was added to drive the reaction to a completion. After 0.5 hour the reaction was quenched with excess water and 4.97 g of the precipitate was collected and air dried. The product was recrystallized from MeOH/toluene. The yield was 2.06 g (38%) of granules, melting point 250° C.

reactant | 9-amino-3,4-dihydroacridin-1(2H)-one | 5.00 g | NC=1C2=CC=CC=C2N=C2CCCC(C12)=O | C13H12N2O
reactant | CH3Li | 1.2M, 78 ml, 4 eq | C[Li]
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | ether | CCOCC | C4H10O
product | 9-Amino-1-methyl-1,2,3,4-tetrahydroacridin-1-ol | NC=1C2=CC=CC=C2N=C2CCCC(C12)(O)C | C14H16N2O
